* source MAIN
X_U5         OUT 0 VCC 0 N16519 uA741
V_V2         -VCC 0 -16
X_U4         OUT N09834 VCC -VCC N09900 uA741
V_V1         VCC 0 16
X_U3         OUT N09690 VCC -VCC N09756 uA741
X_U2         OUT N13610 VCC -VCC N09568 uA741
X_U1         OUT N09294 VCC -VCC N09472 uA741
R_R2         N09568 N19094 R_R2 1.5k TC=0,0 
.model        R_R2 RES R=1 DEV=1% TC1=0 TC2=0
R_R4         N09900 N17329 R_R4 1.47k TC=0,0 
.model        R_R4 RES R=1 DEV=1% TC1=0 TC2=0
R_R5         N09756 N09654 R_R5 1.47k TC=0,0 
.model        R_R5 RES R=1 DEV=1% TC1=0 TC2=0
R_R6         OUT VCC R_R6 4.99k TC=0,0 
.model        R_R6 RES R=1 DEV=1% TC1=0 TC2=0
X_R7         0 OUT OUT POT PARAMS: SET={SET} VALUE=20k
R_R8         0 N09294 R_R8 2.61k TC=0,0 
.model        R_R8 RES R=1 DEV=1% TC1=0 TC2=0
R_R9         N09294 VCC R_R9 1k TC=0,0 
.model        R_R9 RES R=1 DEV=1% TC1=0 TC2=0
R_R11         0 N13610 R_R11 2.15k TC=0,0 
.model        R_R11 RES R=1 DEV=1% TC1=0 TC2=0
R_R13         0 N09690 R_R13 1.78k TC=0,0 
.model        R_R13 RES R=1 DEV=1% TC1=0 TC2=0
R_R15         0 N09834 R_R15 604 TC=0,0 
.model        R_R15 RES R=1 DEV=1% TC1=0 TC2=0
R_R16         N09472 N17714 R_R16 698 TC=0,0 
.model        R_R16 RES R=1 DEV=1% TC1=0 TC2=0
R_R17         N16519 N18668 R_R17 1.4k TC=0,0 
.model        R_R17 RES R=1 DEV=1% TC1=0 TC2=0
R_R10         VCC N13610 R_R10 1k TC=0,0 
.model        R_R10 RES R=1 DEV=1% TC1=0 TC2=0
R_R12         VCC N09690 R_R12 1k TC=0,0 
.model        R_R12 RES R=1 DEV=1% TC1=0 TC2=0
R_R14         VCC N09834 R_R14 1k TC=0,0 
.model        R_R14 RES R=1 DEV=1% TC1=0 TC2=0
D_D15         N09654 N09568 LED_GALBEN 
D_D17         N17714 0 LED_ROSU 
D_D18         N18668 N09900 LED_ALBASTRU 
D_D14         N17329 N09756 LED_VERDE 
D_D16         N19094 N09472 LED_PORTOCALIU 
.PARAM  set=1
